* /home/sumanto/esim-2.1/examples/mixed_signal/pwm_decremental/pwm_decremental.cir

.include lm_741.sub
v2  net-_x1-pad7_ gnd 9v
* u3  d plot_v1
x1 ? rc1 pwl_in net-_x1-pad4_ ? d net-_x1-pad7_ ? lm_741
r1  q rc1 1k
* u7  rc1 plot_v1
c1  gnd rc1 1u
* u8  net-_u2-pad3_ q dac_bridge_1
* u9  q plot_v1
* u6  clk plot_v1
v4  net-_u4-pad1_ gnd pulse(0 5 10u 10u 20u 0.5m 1m)
* u5  d net-_u2-pad2_ adc_bridge_1
* u4  net-_u4-pad1_ clk adc_bridge_1
v3  net-_x1-pad4_ gnd -9v
* u1  pwl_in plot_v1
v1  pwl_in gnd 3
* u2  clk net-_u2-pad2_ net-_u2-pad3_ pwmdecrement
a1 [net-_u2-pad3_ ] [q ] u8
a2 [d ] [net-_u2-pad2_ ] u5
a3 [net-_u4-pad1_ ] [clk ] u4
a4 [clk ] [net-_u2-pad2_ ] [net-_u2-pad3_ ] u2
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             pwmdecrement, NgSpice Name: pwmdecrement
.model u2 pwmdecrement(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 Sumanto=80e-3 ) 
.tran 1e-03 3e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d)
plot v(rc1)
plot v(q)
plot v(clk)
plot v(pwl_in)
.endc
.end
